US06362177B1
A solution of 1-(4-chlorobenzyl)-3-{(glycylamino)methyl}pyrrolidine (0.050 mmol) in CHCl3 (1.35 mL) and tert-butanol (0.05 mL) was treated with 2-amino-4,5-difluorobenzoic acid (0.060 mmol), diisopropylcarbodiimide (0.060 mmol), and HOBt (0.060 mmol). The reaction mixture was stirred at room temperature for 19 h. The mixture was loaded onto Varian™ SCX column, and washed with CH3OH/CHCl3 1:1 (10 mL) and CH3OH (10 mL). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 3-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chlorobenzyl)pyrrolidine (Compound No. 1506) (22.0 mg, quant): The purity was determined by RPLC/MS (92%); ESI/MS m/e 437 (C21H23ClF2N4O2).

reactant | 1-(4-chlorobenzyl)-3-{(glycylamino)methyl}pyrrolidine | 0.050 mmol | ClC1=CC=C(CN2CC(CC2)CNC(CN)=O)C=C1 | C14H20ClN3O
reactant | 2-amino-4,5-difluorobenzoic acid | 0.060 mmol | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
reactant | diisopropylcarbodiimide | 0.060 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | HOBt | 0.060 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CHCl3 | 1.35 mL | C(Cl)(Cl)Cl | CHCl3
solvent | tert-butanol | 0.05 mL | C(C)(C)(C)O | C4H10O
product | 3-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chlorobenzyl)pyrrolidine | NC1=C(C(=O)NCC(=O)NCC2CN(CC2)CC2=CC=C(C=C2)Cl)C=C(C(=C1)F)F | C21H23ClF2N4O2
